US07868177B2
A resealable pressure bottle, under nitrogen, was charged with 5,6-difluoro-N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine (0.13 g, 0.26 mmol), 4-(4-methylpiperazin-1-yl)benzenamine (0.25 g, 1.31 mmol), TFA (0.12 ml, 1.58 mmol), and 2-propanol (10.00 ml, 0.03 M). The reaction vessel was sealed and the mixture stirred at 90° C. for 4 days. The reaction mixture was cooled to RT and concentrated to brown residue. The residue was purified by Biotage silica gel chromatography (2%-8% MeOH/Dichloromethane) followed by Gilson reverse phase chromatography (10% to 90% CH3CN/H2O/0.1% TFA). The product-containing fractions were combined, basified by addition of aq. NaHCO3 and extracted with ethyl acetate. The organic portion was dried with Na2SO4, filtered, and concentrated to afford 5,6-difluoro-N-(4-(3-(2-(4-(4-methylpiperazin-1-yl)phenylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine as a yellow solid. MS m/z=606.1 [M+H]+. Calc'd for C33H29F2N9O: 605.64.

reactant | 5,6-difluoro-N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | 0.26 mmol, 0.13 g | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)S(=O)(=O)C)C=C1F | C23H16F2N6O3S
reactant | 4-(4-methylpiperazin-1-yl)benzenamine | 1.31 mmol, 0.25 g | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | TFA | 1.58 mmol, 0.12 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 2-propanol | 0.03 M, 10.00 ml | CC(C)O | C3H8O
product | 5,6-difluoro-N-(4-(3-(2-(4-(4-methylpiperazin-1-yl)phenylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)C=C1F | C33H29F2N9O
